US06096782
Synthesis of N-[N-(3,5-dichlorophenyl)-D,L-alanyl]-(S)-2-aminohexan-(N-methyl)-amide
Following General Procedure D and using N-(3,5-dichlorophenyl)-D,L-alanine and L-norleucine N-methyl amide (prepared by coupling BOC-L-norleucine (Bachem) with methylamine (Aldrich) using General Procedure E, followed by removal of the BOC group using General Procedure F), the title compound was prepared. The reaction was monitored by tlc (Rf=0.25 in 3% methanol/dichloromethane) and purification of this compound was by thin layer chromatography with 3% methanol/dichloromethane.

reactant | N-(3,5-dichlorophenyl)-D,L-alanine | ClC=1C=C(C=C(C1)Cl)NC(C)C(=O)O | C9H9Cl2NO2
reactant | L-norleucine N-methyl amide | CNC([C@@H](N)CCCC)=O | C7H16N2O
reactant | BOC-L-norleucine | C(=O)(OC(C)(C)C)N[C@@H](CCCC)C(=O)O | C11H21NO4
reactant | methylamine | CN | CH5N
product | N-[N-(3,5-dichlorophenyl)-D,L-alanyl]-(S)-2-aminohexan (N-methyl)-amide | ClC=1C=C(C=C(C1)Cl)NC(C)C(=O)N[C@@H](C)CCCC.C[NH-] | InChI=1S/C15H22Cl2N2O.CH4N/c1-4-5-6-10(2)18-15(20)11(3)19-14-8-12(16)7-13(17)9-14;1-2/h7-11,19H,4-6H2,1-3H3,(H,18,20);2H,1H3/q;-1/t10-,11?;/m0./s1
